US06444668B1
2-(4,4-Dimethyl 2-oxo-1,4-dihydro-2H-benzo[d][1,3]-oxazin-6-yl)phenylacetonitrile
Prepared according to procedure B from 2-bromophenylacetonitrile and (1,4-dihydro-4,4-dimethyl-2-oxo-2H-3,1-benzoxazin-6-yl)boronic acid. White solid; mp 176-179° C.; 1H-NMR (DMSO-d6), δ10.31 (s, 1H), 7.53 (m, 1H), 7.48(m,2H), 7.22-7.32(m,3H), 6.98(d,1H; J=8.0 Hz), 3.90(s,2H), 1.64(s,6H). MS (+)APCI [M+H]+ m/z=293. Anal. Calc. For C18H16N2O2: C, 73.95, H, 5.52, N, 9.58. Found: C,73.51, H 5.70, N, 9.39.

reactant | 2-bromophenylacetonitrile | BrC1=C(C=CC=C1)CC#N | C8H6BrN
reactant | (1,4-dihydro-4,4-dimethyl-2-oxo-2H-3,1-benzoxazin-6-yl)boronic acid | CC1(OC(NC2=C1C=C(C=C2)B(O)O)=O)C | C10H12BNO4
product | 2-(4,4-Dimethyl 2-oxo-1,4-dihydro-2H-benzo[d][1,3]-oxazin-6-yl)phenylacetonitrile | CC1(C2=C(NC(O1)=O)C=CC(=C2)C2=C(C=CC=C2)CC#N)C | C18H16N2O2
